US06165941
3-Chloro-2-[4-(1-methylethylamino)-3-nitrophenyl]-5-trifluoromethylpyridine
44.0 g of 3-chloro-2-(4-fluoro-3-nitrophenyl)-5-trifluoromethylpyridine in 250 ml of isopropylamine were stirred at 23° C. for six hours. The reaction mixture was then concentrated. The residue was stirred with 100 ml of water, after which the residual solid portion was separated off, washed with water and dried in a vacuum drying oven. Yield: 48.2 g (98%) of colorless crystals; m.p.: 107-109° C.

reactant | 3-chloro-2-(4-fluoro-3-nitrophenyl)-5-trifluoromethylpyridine | 44.0 g | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC(=C(C=C1)F)[N+](=O)[O-] | C12H5ClF4N2O2
solvent | isopropylamine | 250 ml | C(C)(C)N | C3H9N
product | 3-Chloro-2-[4-(1-methylethylamino)-3-nitrophenyl]-5-trifluoromethylpyridine | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC(=C(C=C1)NC(C)C)[N+](=O)[O-] | C15H13ClF3N3O2
